US08314087B2
2-(2-(7-Methoxyquinolin-4-ylamino)ethyl)-6-phenylpyridazin-3(2H)-one.
A mixture of 2-(2-aminoethyl)-6-phenylpyridazin-3(2H)-one (60 mg, 743 μmol) and 8-chloro-3-methoxy-1,5-naphthyridine (55 mg, 282 μmol) in iPrOH (2 mL) was heated to 150° C. for 15 min under microwave. The mixture was filtered and the filtrate was chromatographed on silica with 2-5% (2N NH3-MeOH) in CH2Cl2 to give the product as a white solid (60 mg). MS (ESI pos. ion) calc'd for C21H19N5O2: 373.1; found 374.2 (MH+). 1H NMR (400 MHz, Chloroform-d) δ ppm 3.81-3.89 (m, 2 H) 3.92 (d, J=1.37 Hz, 3 H) 4.64 (t, J=5.48 Hz, 2 H) 6.54 (dd, 1 H) 7.03 (dd, J=9.78, 1.57 Hz, 1 H) 7.10 (s, 1 H) 7.39-7.48 (m, 4 H) 7.66 (dd, J=9.59, 1.56 Hz, 1 H) 7.70-7.79 (m, 2 H) 8.38 (t, 1 H) 8.46 (dd, 1 H).

reactant | 2-(2-aminoethyl)-6-phenylpyridazin-3(2H)-one | 743 μmol, 60 mg | NCCN1N=C(C=CC1=O)C1=CC=CC=C1 | C12H13N3O
reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 282 μmol, 55 mg | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
reactant | iPrOH | 2 mL | CC(C)O | C3H8O
product | 2-(2-(7-Methoxyquinolin-4-ylamino)ethyl)-6-phenylpyridazin-3(2H)-one | 60 mg | COC1=CC=C2C(=CC=NC2=C1)NCCN1N=C(C=CC1=O)C1=CC=CC=C1 | C22H20N4O2
